US07816526B2
Synthesis of 6-dimethylamino-2-n-propylimidazo[1,2-b]pyridazin-3-ylsulfonamide
A mixture of 6-chloro-2-n-propylimidazo[1,2-b]pyridazin-3-ylsulfonamide (0.50 g, 1.81 mmol), 50% aqueous dimethylamine (1.0 ml) and t-butanol (5.0 ml) was heated at 100° C. for 8 hours with stirring in a sealed tube reactor. The reaction solution was left and cooled to room temperature, poured into water (50.0 ml) and adjusted to pH 6 with dilute hydrochloric acid, to precipitate crystals which were then filtered and washed with water, to give the title compound as pale yellow crystals. The yield was 0.38 g (74.0%).

reactant | 6-chloro-2-n-propylimidazo[1,2-b]pyridazin-3-ylsulfonamide | 1.81 mmol, 0.50 g | ClC=1C=CC=2N(N1)C(=C(N2)CCC)S(=O)(=O)N | C9H11ClN4O2S
reactant | dimethylamine | 1.0 ml | CNC | C2H7N
reactant | t-butanol | 5.0 ml | C(C)(C)(C)O | C4H10O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 50.0 ml | O | H2O
product | 6-dimethylamino-2-n-propylimidazo[1,2-b]pyridazin-3-ylsulfonamide | CN(C=1C=CC=2N(N1)C(=C(N2)CCC)S(=O)(=O)N)C | C11H17N5O2S
